US05811459
4-[2-(2-Benzyloxyphenyl)-(E)-ethenyl]-2-hydroxybenzoic acid
Methyl 2-acetoxy-4-methylbenzoate was converted to a mixture of methyl 4-[2-(2-benzyloxyphenyl)-(E)-ethenyl]-2-hydroxybenzoate and methyl 4-[2-(2-benzyloxyphenyl)-(Z)-ethenyl]-2-hydroxybenzoate using the procedures described in Example 8 for the synthesis of methyl 4-[2-(2-benzyloxyphenyl)ethenyl)-3-fluorobenzoate from methyl 3-fluoro-4-methylbenzoate (using 2 equivalents of lithium hexamethyldisilazide in the final step). The isomers were separated by subjecting to chromatography on silica gel using a dichloromethane:hexane (1:2) as eluant. Further purification of the isomers was achieved by crystallisation.

reactant | Methyl 2-acetoxy-4-methylbenzoate | C(C)(=O)OC1=C(C(=O)OC)C=CC(=C1)C | C11H12O4
reactant | methyl 4-[2-(2-benzyloxyphenyl)-(E)-ethenyl]-2-hydroxybenzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)/C=C/C1=CC(=C(C(=O)OC)C=C1)O | C23H20O4
reactant | methyl 4-[2-(2-benzyloxyphenyl)-(Z)-ethenyl]-2-hydroxybenzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)\C=C/C1=CC(=C(C(=O)OC)C=C1)O | C23H20O4
reactant | methyl 4-[2-(2-benzyloxyphenyl)ethenyl)-3-fluorobenzoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=C(C=C(C(=O)OC)C=C1)F | C23H19FO3
reactant | methyl 3-fluoro-4-methylbenzoate | FC=1C=C(C(=O)OC)C=CC1C | C9H9FO2
reactant | lithium hexamethyldisilazide | 2 equivalents | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | 4-[2-(2-Benzyloxyphenyl)-(E)-ethenyl]-2-hydroxybenzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC=C1)/C=C/C1=CC(=C(C(=O)O)C=C1)O | C22H18O4
